US07435837B2
To a solution of (±)-[6-chloro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (0.5 g, 1.69 mmol) in toluene (10 mL) was added triphenylphosphine (0.66 g, 2.54 mmol), diethyl azodicarboxylate (0.44 g, 2.54 mmol), and 2-hydroxy-2-methylpropanenitrile (0.21 g, 2.53 mmol) and the reaction mixture was allowed to stir at room temperature for 48 h. The solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9-3:7) provided 0.22 g (43%) of (±)-{2-[6-chloro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]propanenitrile. To a solution of the nitrile in tetrahydrofuran (10 mL) was added borane-tetrahydrofuran (8 mL) and the reaction mixture was heated to reflux for 3 h. The reaction mixture was quenched with 1.0 N aqueous hydrogen chloride (100 mL) and then neutralized with 1.0 N aqueous sodium hydroxide (100 mL). The aqueous layer was extracted with ethyl acetate (2×200 mL) and the combined organic extracts were washed with saturated aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent removed in vacuo. Purification by flash column chromatography (silica, 10% ammonium hydroxide in methanol:dichloromethane 1:9) provided 0.1 g (19%) of (±)-{2-[6-chloro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]ethyl}amine as a white solid, hydrochloride salt. mp 211-213° C.

reactant | (±)-[6-chloro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 1.69 mmol, 0.5 g | ClC1=C(C2=C(CC(O2)CO)C=C1)C1=C(C=CC=C1)Cl | C15H12Cl2O2
reactant | triphenylphosphine | 2.54 mmol, 0.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.54 mmol, 0.44 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxy-2-methylpropanenitrile | 2.53 mmol, 0.21 g | OC(C#N)(C)C | C4H7NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[6-chloro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]propanenitrile | ClC1=C(C2=C(CC(O2)C(C#N)C)C=C1)C1=C(C=CC=C1)Cl | C17H13Cl2NO
